datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCOC(=O)[C@H]1CC(=O)N[C@@H]1C(=O)[O-:10].S=C1c2[nH]nnc2N=C[N:21]1[H:20]>>CCOC(=O)[C@H]1CC(=O)N[C@@H]1C(=O)[O:10][H:20].S=C1c2[nH]nnc2N=C[N-:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Clc1ccc(C[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Clc1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"Cc1cc(Cc2cc([N+](=O)[O-])ccc2[O-:10])cc(C)c1O.O=C(Cc1cccc2ccccc12)[O:21][H:20]>>Cc1cc(Cc2cc([N+](=O)[O-])ccc2[O:10][H:20])cc(C)c1O.O=C(Cc1cccc2ccccc12)[O-:21] 10=20;20,21=21",
"Nc1cc[n+:21]([H:20])cc1N.O=C1c2[nH]cnc2N=CN1[O-:10]>>Nc1cc[n:21]cc1N.O=C1c2[nH]cnc2N=CN1[O:10][H:20] 10=20;20,21=21",
"CC[NH+](CC)CCNc1nc(Nc2ccc(Cl)cc2)cc(C)[n:10]1.Nc1cccc(-c2ccccn2)[n+:21]1[H:20]>>CC[NH+](CC)CCNc1nc(Nc2ccc(Cl)cc2)cc(C)[n+:10]1[H:20].Nc1cccc(-c2ccccn2)[n:21]1 10=20;20,21=21",
"Cc1csc(C(=O)[O:21][H:20])c1.Oc1ccc2c(c1)[NH:10]c1ccccc1N2>>Cc1csc(C(=O)[O-:21])c1.Oc1ccc2c(c1)[NH+:10]([H:20])c1ccccc1N2 10=20;20,21=21",
"CCNC(=O)C1CCCC[NH:10]1.O=C(O)CC(=O)CC(=O)/C=C/C(=O)[O:21][H:20]>>CCNC(=O)C1CCCC[NH+:10]1[H:20].O=C(O)CC(=O)CC(=O)/C=C/C(=O)[O-:21] 10=20;20,21=21",
"Cc1ccccc1NC(Nc1ccccc1C)=[NH:10].O=C1C=CN([C@@H]2C[C@@H](O)[C@H](CO)O2)C(=O)[N:21]1[H:20]>>Cc1ccccc1NC(Nc1ccccc1C)=[NH+:10][H:20].O=C1C=CN([C@@H]2C[C@@H](O)[C@H](CO)O2)C(=O)[N-:21]1 10=20;20,21=21",
"CC(C(O)c1ccccc1)[N+:21](C)(C)[H:20].CC(C)(C)[C@]1(O)CC[N:10]2C[C@@H](c3ccccc3)c3ccccc3[C@@H]2C1>>CC(C(O)c1ccccc1)[N:21](C)C.CC(C)(C)[C@]1(O)CC[N+:10]2([H:20])C[C@@H](c3ccccc3)c3ccccc3[C@@H]2C1 10=20;20,21=21",
"Nc1ccc2cc3cc(Cl)ccc3[n+:21]([H:20])c2c1.O=C(C1CCCOC1)[O-:10]>>Nc1ccc2cc3cc(Cl)ccc3[n:21]c2c1.O=C(C1CCCOC1)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(C[NH2:10])cc1N.Cc1cnc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])nc1C>>Cc1ccc(C[NH2+:10][H:20])cc1N.Cc1cnc([N-:21]S(=O)(=O)c2ccc(N)cc2)nc1C 10=20;20,21=21",
"C[NH+](C)Cc1ccc([O:21][H:20])cc1.O=C(C[C@]1(O)C[C@@H]2C=C[C@H]1C2)[O-:10]>>C[NH+](C)Cc1ccc([O-:21])cc1.O=C(C[C@]1(O)C[C@@H]2C=C[C@H]1C2)[O:10][H:20] 10=20;20,21=21",
"C[n+]1cccc2c([O-:10])cccc21.O=C1CNC(=O)C(CC(=O)[O:21][H:20])N1>>C[n+]1cccc2c([O:10][H:20])cccc21.O=C1CNC(=O)C(CC(=O)[O-:21])N1 10=20;20,21=21",
"CCCCCC[NH:10]Cc1ccc(C)cc1.O=C(C(=O)[O:21][H:20])c1ccccc1>>CCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].O=C(C(=O)[O-:21])c1ccccc1 10=20;20,21=21",
"CC[Se](=O)[O:21][H:20].Clc1ccnc2c1ccc1c(Cl)cc[n:10]c12>>CC[Se](=O)[O-:21].Clc1ccnc2c1ccc1c(Cl)cc[n+:10]([H:20])c12 10=20;20,21=21",
"CC(=Nc1ccccc1O)c1ccccc1[O:21][H:20].[NH3+]CCCC(=O)[O-:10]>>CC(=Nc1ccccc1O)c1ccccc1[O-:21].[NH3+]CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)(C)[N:10](C)C.CN(C(=O)c1ccccc1)c1cc[n+:21]([H:20])cc1>>CC(C)(C)[N+:10](C)(C)[H:20].CN(C(=O)c1ccccc1)c1cc[n:21]cc1 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2n[n+:21]([H:20])ccc2[nH]1.COc1ccc(C(O)C[NH:10]C(C)CC2=C(C)C(C)(C)CC2)cc1>>COc1cc(S(C)=O)ccc1-c1nc2n[n:21]ccc2[nH]1.COc1ccc(C(O)C[NH+:10](C(C)CC2=C(C)C(C)(C)CC2)[H:20])cc1 10=20;20,21=21",
"CCCNc1nc[n:10]c2c1cnn2C.C[N+:21](C)(Cc1ccccc1)[H:20]>>CCCNc1nc[n+:10]([H:20])c2c1cnn2C.C[N:21](C)Cc1ccccc1 10=20;20,21=21",
"CC(C)(C)[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>CC(C)(C)[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"CCC(C)(C)[NH:10]C1CCCCC1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC(C)(C)[NH+:10](C1CCCCC1)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCCCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C(=O)[O-])[NH:10]C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(C(=O)[O-])[NH+:10](C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CSc1ccccc1C(=O)[O:21][H:20].OCn1c[n:10]c2ccccc21>>CSc1ccccc1C(=O)[O-:21].OCn1c[n+:10]([H:20])c2ccccc21 10=20;20,21=21",
"CNc1cccc[n:10]1.O=S(CCc1ccccc1)[O:21][H:20]>>CNc1cccc[n+:10]1[H:20].O=S(CCc1ccccc1)[O-:21] 10=20;20,21=21",
"Cc1cc(C)nc([N:21](S(=O)(=O)c2ccc(O)cc2)[H:20])n1.Cc1ccc([N:10]2CCCC(=O)C(O)CCC2)cc1>>Cc1cc(C)nc([N-:21]S(=O)(=O)c2ccc(O)cc2)n1.Cc1ccc([N+:10]2([H:20])CCCC(=O)C(O)CCC2)cc1 10=20;20,21=21",
"O=C([O-])Cc1nnn[n:21]1[H:20].[NH3+]CC(=O)C[NH2:10]>>O=C([O-])Cc1nnn[n-:21]1.[NH3+]CC(=O)C[NH2+:10][H:20] 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c(N(C)C)s1.OCC(S)C[S-:10]>>Cc1c[n:21]c(N(C)C)s1.OCC(S)C[S:10][H:20] 10=20;20,21=21",
"CCNc1nc(N)[n:10]c(N)n1.Cc1ccc([NH+:21](C)[H:20])cc1>>CCNc1nc(N)[n+:10]([H:20])c(N)n1.Cc1ccc([NH:21]C)cc1 10=20;20,21=21",
"CCSC(C)(O)[O:21][H:20].O=S(=O)([O-])c1c([O-:10])ccc2cn[nH]c12>>CCSC(C)(O)[O-:21].O=S(=O)([O-])c1c([O:10][H:20])ccc2cn[nH]c12 10=20;20,21=21",
"CCC(O)C[N:10](CC(O)CC)C(C)(C)C.CNc1c2ccccc2[n+:21]([H:20])c2cccc([N+](=O)[O-])c12>>CCC(O)C[N+:10](CC(O)CC)(C(C)(C)C)[H:20].CNc1c2ccccc2[n:21]c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"C(=N/c1ncc2nc[nH]c2n1)\c1ccc([O:21][H:20])cc1.Cc1cccc(C(C)c2c[nH]c[n:10]2)c1C>>C(=N/c1ncc2nc[nH]c2n1)\c1ccc([O-:21])cc1.Cc1cccc(C(C)c2c[nH]c[n+:10]2[H:20])c1C 10=20;20,21=21",
